US07371748B2
7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine (XI)
The title compound was prepared from 6-(4-methoxy-3-nitro-phenyl)-1,4-dioxepane in exact the same manner as described in WO01/97786 for 4-methoxy-7-phenoxy-benzothiazol-2-yl-amine in 57% yield (3.7 g). MS: m/e=281(M+H+).

reactant | 6-(4-methoxy-3-nitro-phenyl)-1,4-dioxepane | COC1=C(C=C(C=C1)C1COCCOC1)[N+](=O)[O-] | C12H15NO5
reactant | 4-methoxy-7-phenoxy-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)OC2=CC=CC=C2 | C14H12N2O2S
product | 7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | 57% yield | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
